US07550482B2
2-Phenylethynyl-7,8-dihydro-6H-quinolin-5-one
To a solution of 2-chloro-7,8-dihydro-6H-quinolin-5-one (0.2 g, 1.1 mmol) and ethynylbenzene (0.17 g, 1.6 mmol) in triethylamine (7 ml) under an argon atmosphere was added tetrakis (triphenylphosphine) palladium (0.02 g, 0.062 mmol). The mixture was heated at reflux for 3 h. Then it was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel to give the title compound (0.04 g, 15%).

reactant | 2-chloro-7,8-dihydro-6H-quinolin-5-one | 1.1 mmol, 0.2 g | ClC1=NC=2CCCC(C2C=C1)=O | C9H8ClNO
reactant | ethynylbenzene | 1.6 mmol, 0.17 g | C(#C)C1=CC=CC=C1 | C8H6
solvent | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis (triphenylphosphine) palladium | 0.062 mmol, 0.02 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-Phenylethynyl-7,8-dihydro-6H-quinolin-5-one | 0.04 g, 15% | C1(=CC=CC=C1)C#CC1=NC=2CCCC(C2C=C1)=O | C17H13NO
